US03931407
b. 1-(3-Carboxy-4-hydroxyphenyl)-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydroindole ##SPC81##
A mixture of 11.5 g. (0.05 mole) of 2-(p-hydroxyphenacyl)cyclohexanone, 7.6 g. (0.05 mole) of 5-aminosalicylic acid, and 40 ml. of glacial acetic acid was heated under reflux under nitrogen for 1.5 hours, cooled and filtered to provide 10.6 g. (61%) of solid, m.p. 214°-217°. Recrystallization from acetonitrile gave crystals, m.p. 217°-219°.

reactant | 2-(p-hydroxyphenacyl)cyclohexanone | 0.05 mole | OC1=CC=C(C(CC2C(CCCC2)=O)=O)C=C1 | C14H16O3
reactant | 5-aminosalicylic acid | 0.05 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Carboxy-4-hydroxyphenyl)-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydroindole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CCCCC12)C1=CC=C(C=C1)O | C21H19NO4
